US07723368B2
Step d) 1-(2-cyclopropyl-1-fluorovinyl)-3-{[4-(difluoromethoxy)phenyl]ethynyl}benzene 1:1 Z/E isomers
Into a cold solution of diethyl[(3-{[4-(difluoromethoxy)phenyl]ethynyl}phenyl)(fluoro)methyl]phosphonite (2.0 g, 4.08 mmol) and THF (20 mL) was added dropwise LDA (14.64 mL, 1.0M). The mixture was stirred for 30 minutes and then cyclopropanecarbaldehyde (410 mg, 5.8 mmol) was added and the mixture was allowed to come to room temperature and stirred for 24 hours. Then, HCl (5 mL, 2N) was added and the mixture was stirred for 30 minutes, poured into water and extracted with EtOAc. The organic extracts were dried over MgSO4. Evaporation and purification by ICSO (hexane/EtOAc 20/1) gavel-(2-cyclopropyl-1-fluorovinyl)-3-{[4-(difluoromethoxy)phenyl]ethynyl}benzene 1:1 Z/E isomers as a yellow oil (0.72 g); MS m/e (M)+ 328.

reactant | diethyl[(3-{[4-(difluoromethoxy)phenyl]ethynyl}phenyl)(fluoro)methyl]phosphonite | 4.08 mmol, 2.0 g | C(C)OP(OCC)C(F)C1=CC(=CC=C1)C#CC1=CC=C(C=C1)OC(F)F | C20H20F3O3P
reactant | LDA | 1.0M, 14.64 mL | [Li+].CC(C)[N-]C(C)C
reactant | cyclopropanecarbaldehyde | 5.8 mmol, 410 mg | C1(CC1)C=O | C4H6O
reactant | HCl | 2N, 5 mL | Cl | ClH
solvent | water | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(2-cyclopropyl-1-fluorovinyl)-3-{[4-(difluoromethoxy)phenyl]ethynyl}benzene | C1(CC1)C=C(F)C1=CC(=CC=C1)C#CC1=CC=C(C=C1)OC(F)F | C20H15F3O
